US05389295
60 ml of THF are added under an N2 atmosphere to 100 mmol of NaH in the form of an oil dispersion. The mixture is mixed vigorously and heated to 45°-50° C. 120 mmol of methyl iodide are then added, and 80 mmol of trans-4-(p-trifluoromethylphenyl)cyclohexylmethyl alcohol in 20 ml of THF are subsequently added dropwise over the course of 30 minutes. The reaction mixture is then stirred for 30 minutes at the same temperature, cooled and carefully hydrolysed using aqueous THF. When the vigorous evolution of H2 is complete, customary work-up gives trans-4-methoxymethyl(p-trifluoromethylphenyl)cyclohexane.

reactant | NaH | 100 mmol | [H-].[Na+]
reactant | methyl iodide | 120 mmol | CI | CH3I
reactant | trans-4-(p-trifluoromethylphenyl)cyclohexylmethyl alcohol | 80 mmol | FC(C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CO)(F)F | C14H17F3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | trans-4-methoxymethyl(p-trifluoromethylphenyl)cyclohexane | COC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(F)(F)F | C15H19F3O
